US08110585B2
trans-tert-butyl{[2-(2-methyl-2H-indazol-4-yl)cyclopropyl]methyl}carbamate
To a solution of trans-1-[2-(2-methyl-2H-indazol-4-yl)cyclopropyl]methanamine (5.75 g, 28.6 mmol) in tetrahydrofuran (150 mL) were added triethylamine (7.96 mL, 57.1 mmol) and di-t-butyl dicarbonate (9.36 g, 42.9 mmol), and the mixture was stirred at room temperature for 2 hr. The solvent was evaporated under reduced pressure. The residue was purified by silica gel column chromatography (ethyl acetate/hexane=50/50→100/0) to give the title compound (7.69 g, yield 89%).

reactant | trans-1-[2-(2-methyl-2H-indazol-4-yl)cyclopropyl]methanamine | 28.6 mmol, 5.75 g | CN1N=C2C=CC=C(C2=C1)[C@H]1[C@@H](C1)CN | C12H15N3
reactant | triethylamine | 57.1 mmol, 7.96 mL | C(C)N(CC)CC | C6H15N
reactant | di-t-butyl dicarbonate | 42.9 mmol, 9.36 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | tetrahydrofuran | 150 mL | O1CCCC1 | C4H8O
product | trans-tert-butyl{[2-(2-methyl-2H-indazol-4-yl)cyclopropyl]methyl}carbamate | 7.69 g, yield 89% | C(C)(C)(C)OC(NC[C@H]1[C@@H](C1)C=1C2=CN(N=C2C=CC1)C)=O | C17H23N3O2
